US04031219
N,N-Bis-[3-(3,4-dihydro-4,4-dimethyl-1,3-dioxo-2(1H)-isoquinolyl)-propyl]-n-hexylamine was prepared analogous to Example 27 from 2.6 gm of N,N-bis-[3-(3,4-dihydro-4,4-dimethyl-1,3-dioxo-2(1H)-isoquinolyl)-propyl]-amine and 1 gm of n-hexyl bromide. M.p. of the fumarate: 137°-138° C; yield: 1.7 gm (50% of theory).

reactant | N,N-bis-[3-(3,4-dihydro-4,4-dimethyl-1,3-dioxo-2(1H)-isoquinolyl)-propyl]-amine | 2.6 gm | CC1(C(N(C(C2=CC=CC=C12)=O)CCCNCCCN1C(C2=CC=CC=C2C(C1=O)(C)C)=O)=O)C | C28H33N3O4
reactant | n-hexyl bromide | 1 gm | C(CCCCC)Br | C6H13Br
reactant | fumarate | C(\C=C\C(=O)[O-])(=O)[O-]
product | N,N-Bis-[3-(3,4-dihydro-4,4-dimethyl-1,3-dioxo-2(1H)-isoquinolyl)-propyl]-n-hexylamine | CC1(C(N(C(C2=CC=CC=C12)=O)CCCN(CCCN1C(C2=CC=CC=C2C(C1=O)(C)C)=O)CCCCCC)=O)C | C34H45N3O4
